* tb_offset_gof -- Goodness-of-fit companion to sim/comparator-offset-mc/.
*
* WHY THIS EXISTS (issue #14, not #9). sim/comparator-offset-mc/'s manifest
* accumulates only running sums (sva, svaq, ...) inside its `dowhile` loop,
* so its records report sigma(V_os) per PVT point but never the raw
* per-draw V_os population itself -- there is nothing in that experiment's
* corners/*.log files to run a normality check against. Issue #14's
* acceptance criteria require a goodness-of-fit check before extrapolating
* the offset distribution to a 3-sigma yield claim (spec/comparator-budget-memo.md
* S3, S4), so this testbench re-derives the SAME measurement
* (spec/comparator-budget-memo.md's DR-0007 preamp, the SAME two-point DC
* sweep method) but also `print`s each draw's offset, so the raw sample can
* be recovered from the run's own log and fed to an external GOF test
* (scipy.stats.shapiro / anderson) -- see sim/mc-cdac-mismatch/ and the
* methodology memo (spec/monte-carlo-methodology-memo.md) for how that check
* is used.
*
* SCOPE, deliberately narrower than sim/comparator-offset-mc/:
*  - ONE common mode (V_cm = 1.65 V) -- the code-correlated (common-mode-
*    dependent) question is #9's and is already closed (spec/comparator-
*    budget-memo.md S4: 0.19 uV / 0.00006 LSB, not re-derived here).
*  - ONE PVT point (nominal, tt/27C/3.30V) -- sim/comparator-offset-mc/
*    already measured < 1.3 % corner spread of sigma(V_os) across 38 points
*    (par_vth lives in the PDK's fets_mm subckt, not any corner .lib
*    section, so it is corner-invariant by construction); a shape check
*    of the distribution does not need to be repeated at every corner to
*    support that conclusion for the nominal point picked to represent it.
*  - The load-resistor null control is dropped: sim/comparator-offset-mc/
*    already established sig_rpair_uv = 0 (this PDK models no resistor
*    local mismatch at all); repeating it here would test the same PDK
*    fact for a second time, not a new one.
*  - The netlist block below is the FULL canonical comparator (preamp +
*    sarlatch + inv + nor2 + comparator), kept byte-identical to
*    design/comparator/comparator.spice by
*    sim/tools/sync_comparator_netlist.py and sim/tests/
*    test_comparator_netlist.py, per repo convention for every
*    sim/comparator-*/testbench/*.spice fragment. Only `.subckt preamp` is
*    actually instantiated below (`Xa ... preamp`); the rest are present,
*    unused, and cost nothing at simulation time -- kept only so this file
*    cannot silently drift from the design the rest of the repo verifies.
*
* METHOD (identical to sim/comparator-offset-mc/, restated because the
* correctness of every V_os sample below depends on it). ONE two-point DC
* sweep per Monte Carlo draw, on the SAME instance -- `dc vd 0 2m 2m`:
*   point [0], 0 V differential input -> d0 = v(pop) - v(pon) = -A_v*V_os
*   point [1], +2 mV                  -> d1,  so A_v = (d1-d0)/2 mV
*   V_os = -d0/A_v
* Taking A_v per draw (not per corner) removes the preamp's own ~1 % gain
* mismatch from the offset estimate and is a self-check
* (av_sigma_pct, printed below) that ONE mismatch draw, not two independent
* ones, produced d0 and d1 -- see sim/comparator-offset-mc/testbench/
* tb_offset_mc.spice for the full explanation of why this matters.
*
* THE PDK's OWN MISMATCH SWITCH. sw_stat_mismatch MUST be set in this
* fragment, not in the manifest params: the harness emits manifest params
* ahead of the model includes and design.ngspice sets sw_stat_mismatch = 0,
* so a manifest param would be silently overridden and the whole Monte
* Carlo would collapse to sigma = 0 (identical hazard to tb_offset_mc.spice).
.param sw_stat_mismatch=1
.param sw_stat_global=0

.nodeset v(ibn)=0.75 v(pop)='vdd_val-0.8' v(pon)='vdd_val-0.8'

.param ib=10u

vsup vdd 0 dc {vdd_val}

* ONE preamp instance, swept at ONE common mode -- see METHOD above.
vcm  cm 0 dc 1.65
vd   vd 0 dc 0
Eap  ap cm vd 0 0.5
Ean  an cm vd 0 -0.5
ib   vdd ibn dc {ib}
Xa   ap an ibn pop pon vdd 0 preamp

* --- COMPARATOR-NETLIST-BEGIN (verbatim-copied into every testbench) ---
.subckt preamp vinp vinn ibias pop pon vdd vss
* 1:1 NMOS current mirror; ibias is forced into the diode branch.
Xmb  ibias ibias vss vss nfet_03v3 w=20u l=2u
Xmt  ptail ibias vss vss nfet_03v3 w=20u l=2u
* Input pair. The device whose gate is vinp drives the INVERTING node
* pon, so v(pop) - v(pon) = +A_v * (v(vinp) - v(vinn)).
Xmip pon vinp ptail vss nfet_03v3 w=40u l=1u
Xmin pop vinn ptail vss nfet_03v3 w=40u l=1u
* Unsalicided 1 kohm/sq p+ poly loads, 150 squares = 150 kohm nominal.
* Third terminal is the substrate/body contact. `ppolyf_u_1k`, not the
* 2 kohm/sq `ppolyf_u_2k` an earlier revision assumed: issue #118 drew
* SAB(49/0)+RES_MK(110/5)+Resistor(62/0) markers over the load-resistor
* bodies so `klt extract`'s gf180mcu deck recognises them as real devices
* instead of a Poly2 short, and at this repo's pinned klt commit that
* marker geometry can only select `ppolyf_u_1k` (1000 ohm/sq) -- the
* `_2k`/`_3k` flavours share the identical drawn geometry and are chosen by
* a build-time deck option this curated deck does not implement
* (`2AMLogic/klayout-tools#595`, open). `r_length` is doubled (75u -> 150u)
* at the same `r_width=1u` to preserve the 150 kohm target at the new
* sheet-rho -- see layout/adc-top/README.md "Resistors".
Xrlp vdd pop vss ppolyf_u_1k r_width=1u r_length=150u
Xrln vdd pon vss ppolyf_u_1k r_width=1u r_length=150u
.ends preamp

.subckt sarlatch inp inn clk outp outn vdd vss
* clk low  -> tail off; outp/outn/dip/din precharged to vdd
* clk high -> tail on; the input pair discharges dip/din at rates set by
*             v(inp)/v(inn), then the cross-coupled pairs regenerate.
Xmlt ltail clk   vss   vss nfet_03v3 w=16u l=0.35u
Xmlp dip   inp   ltail vss nfet_03v3 w=8u  l=0.5u
Xmln din   inn   ltail vss nfet_03v3 w=8u  l=0.5u
Xmnp outn  outp  dip   vss nfet_03v3 w=6u  l=0.35u
Xmnn outp  outn  din   vss nfet_03v3 w=6u  l=0.35u
Xmpp outn  outp  vdd   vdd pfet_03v3 w=8u  l=0.35u
Xmpn outp  outn  vdd   vdd pfet_03v3 w=8u  l=0.35u
Xmrp outn  clk   vdd   vdd pfet_03v3 w=4u  l=0.35u
Xmrn outp  clk   vdd   vdd pfet_03v3 w=4u  l=0.35u
Xmrd dip   clk   vdd   vdd pfet_03v3 w=2u  l=0.35u
Xmre din   clk   vdd   vdd pfet_03v3 w=2u  l=0.35u
.ends sarlatch

* Minimum-ish isolation inverter. Deliberately small: it is the only
* thing the regeneration nodes drive, so its gate capacitance is added
* directly to the latch's own output nodes and shows up as regeneration
* time.
.subckt inv a y vdd vss
Xp y a vdd vdd pfet_03v3 w=2u   l=0.35u
Xn y a vss vss nfet_03v3 w=1u   l=0.35u
.ends inv

.subckt nor2 a b y vdd vss
Xp1 ps a vdd vdd pfet_03v3 w=8u l=0.35u
Xp2 y  b ps  vdd pfet_03v3 w=8u l=0.35u
Xn1 y  a vss vss nfet_03v3 w=4u l=0.35u
Xn2 y  b vss vss nfet_03v3 w=4u l=0.35u
.ends nor2

.subckt comparator vinp vinn clk ibias dout doutb vdd vss
Xpre preamp_in1 preamp_in2 ibias pop pon vdd vss preamp
Xlat pop pon clk outp outn vdd vss sarlatch
* THE ISOLATION INVERTERS ARE NOT OPTIONAL -- they fix a measured
* hysteresis defect. Both StrongARM outputs precharge HIGH, so the
* decision arrives as an active-low pulse on exactly one of them, and
* the obvious way to hold it is a NAND SR latch wired straight to
* outp/outn. That circuit was built first and MEASURED: after deciding
* one way it would not flip back until the input reached ~10 mV of the
* opposite polarity -- about 3 LSB of hysteresis, which in a SAR (where
* the same comparator makes ten successive decisions on a shrinking
* residue) is a code-dependent error, not an offset.
*
* The cause is that a NAND SR latch's HELD STATE loads the two
* regeneration nodes asymmetrically. Wired directly, the node driving
* the NAND whose output is LOW sees that output swing when it falls
* (Miller-multiplied C_gd, ~26 fF against a regeneration node of a few
* tens of fF), while its twin drives a NAND whose output is already
* HIGH and stays there. The latch is therefore biased toward keeping
* the answer it already holds.
*
* Interposing one small inverter per side removes the coupling: the
* inverters are identical, both of their inputs precharge to V_DD, and
* neither loading depends on what the SR latch is holding. The SR latch
* becomes NOR-type because the inverters make the decision pulses
* active-HIGH. dout goes HIGH when outn falls, i.e. when
* v(vinp) > v(vinn), exactly as before.
Xis outn sset vdd vss inv
Xir outp srst vdd vss inv
Xno1 srst doutb dout  vdd vss nor2
Xno2 sset dout  doutb vdd vss nor2
* Input pass-through (zero-volt sources) so a testbench can probe the
* current the comparator draws from each CDAC top plate directly.
Vpp preamp_in1 vinp dc 0
Vpn preamp_in2 vinn dc 0
.ends comparator
* --- COMPARATOR-NETLIST-END ---
